US06087380
2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride
Prepared analogously to Example 9 from 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide, ethanolic hydrochloric acid, ethanol and ammonium carbonate. Yield: 83% of theory, C24H29N5O3 (467.59) Rf value: 0.31 (silica gel; methylene chloride/ethanol=4:1+a few drops of acetic acid) ##EQU6##

reactant | 2-[N-(4-cyanophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide | C(CC)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C#N)C1)CCC(=O)OCC | C24H26N4O3S
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
reactant | ammonium carbonate | C([O-])([O-])=O.[NH4+].[NH4+]
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
solvent | methylene chloride ethanol | C(Cl)Cl.C(C)O
product | 2-[N-(4-amidinophenyl)-aminomethyl]-benzothiazol-5-yl-carboxylic acid-N-(n-propyl)-N-(2-ethoxycarbonylethyl)-amide-hydrochloride | Yield: 83% | Cl.C(CC)N(C(=O)C=1C=CC2=C(N=C(S2)CNC2=CC=C(C=C2)C(N)=N)C1)CCC(=O)OCC | InChI=1S/C24H29N5O3S.ClH/c1-3-12-29(13-11-22(30)32-4-2)24(31)17-7-10-20-19(14-17)28-21(33-20)15-27-18-8-5-16(6-9-18)23(25)26;/h5-10,14,27H,3-4,11-13,15H2,1-2H3,(H3,25,26);1H
